US05576335
4-fluoro-2-nitroaniline (1.56 g), heptyl isocyanate (1.41 g) and 4-dimethylaminopyridine (0.37 g) were stirred in toluene (5 ml) at 80°-90 C. for 5 hrs. This solution was diluted with ethyl acetate, washed with 1N hydrochloric acid, sodium hydrogen carbonate solution, water and saturated saline, dried over anhydrous MgSO4, and the solvent was distilled off. The resulted crystals were washed with hexane to give 1-(4-fluoro-2-nitrophenyl)-3-heptylurea (1.95 g, 66%).

reactant | 4-fluoro-2-nitroaniline | 1.56 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | heptyl isocyanate | 1.41 g | C(CCCCCC)N=C=O | C8H15NO
catalyst | 4-dimethylaminopyridine | 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluoro-2-nitrophenyl)-3-heptylurea | 1.95 g, 66% | FC1=CC(=C(C=C1)NC(=O)NCCCCCCC)[N+](=O)[O-] | C14H20FN3O3
